.subckt and_Gates 2 4 out vdd gnd
    MP_A 3 2 vdd vdd pmos W={width_P} L={LAMBDA} 
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P} 

    MP_B 3 4 vdd vdd pmos W={width_P} L={LAMBDA} 
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P} 

    MN_A 3 2 5 gnd nmos W={width_P} L={LAMBDA} 
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

    MN_B 5 4 gnd gnd nmos W={width_P} L={LAMBDA} 
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

    MP_I out 3 vdd vdd pmos W={width_P} L={LAMBDA} 
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P} 

    MN_I out 3 gnd gnd nmos W={width_P} L={LAMBDA} 
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
   
.ends and_Gates  